US05686615
(+)-(2S,3S)-3-Amino-2-phenylpiperidine
In a bottle were placed 9 g of 10% palladium-carbon, 180 ml of methanol, 275 ml of ethanol, 6.5 ml of concentrated hydrochloric acid and 9 g of the hydrochloride salt of (2S,3S)-3-(2-methoxybenzylamino)-2-phenylpiperidine. The mixture was shaken under hydrogen (40 p.s.i.) overnight, 9 g of additional catalyst were added to the system and the mixture was shaken under hydrogen for 1 day. The mixture was diluted with water (250 mL), filtered through diatomaceous earth (Celite (trademark)) and the Celite was rinsed well with water. The filtrate was concentrated to a volume of ca. 600-700 mL, made basic with concentrated aqueous sodium hydroxide and extracted with chloroform, and the chloroform extracts were dried (sodium sulfate) and concentrated to obtain 4.4 g of the title compound as a colorless oil.

reactant | methanol | 180 ml | CO | CH4O
reactant | ethanol | 275 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
reactant | (2S,3S)-3-(2-methoxybenzylamino)-2-phenylpiperidine | COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=CC=C1 | C19H24N2O
solvent | water | 250 mL | O | H2O
catalyst | palladium-carbon | 9 g | [C].[Pd]
product | (+)-(2S,3S)-3-Amino-2-phenylpiperidine | 4.4 g | N[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C11H16N2
